US04678855
4-(3-hydroxypropylsulfonyl)-3-aminobenzenesulfonamide
A mixture of 4-(3-hydroxypropylsulfonyl)-3-nitrobenzenesulfonamide (4.0 g, 0.012 mol), iron powder (11 g), and 12M HCl (0.6 ml) in 10 ml water and 40 ml ethanol was refluxed on a steam bath for about 2 hours. The reaction mixture was filtered hot, and the solvent evaporated. The residue was taken up in ethyl acetate, washed with water, saturated sodium bicarbonate, water, then brine. After drying, evaporation of solvent left a residue that quickly crystallized. The solid was washed with water and collected. Recrystallization from butanol left 2.0 g of a white solid. M.p.=136.5°-138° C.

reactant | 4-(3-hydroxypropylsulfonyl)-3-nitrobenzenesulfonamide | 0.012 mol, 4.0 g | OCCCS(=O)(=O)C1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C9H12N2O7S2
reactant | HCl | 12M, 0.6 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | iron | 11 g | [Fe] | Fe
product | 4-(3-hydroxypropylsulfonyl)-3-aminobenzenesulfonamide | OCCCS(=O)(=O)C1=C(C=C(C=C1)S(=O)(=O)N)N | C9H14N2O5S2
